US07166583B2
Dimethyl-[3-(1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-propyl]-amine (I; X=S, Y=Z=H, m=1, R1=(CH3)2N(CH2)3OCH2, R2=H)
By a reaction of alcohol 31 (0.58 mmole) and 3-dimethylaminopropylchloride-hydrochloride (8.1 mmole), dimethyl-{3-[1-(2-trimethylsilyl-ethoxymethyl)-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy]-propyl}-amine in the form of an oily product was obtained;

reactant | 3-dimethylaminopropylchloride-hydrochloride | 8.1 mmole | Cl.CN(CCCCl)C
reactant | dimethyl-{3-[1-(2-trimethylsilyl-ethoxymethyl)-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy]-propyl}-amine | CN(CCCOCC1=NC=2C3=C(SC4=C(C2N1COCC[Si](C)(C)C)C=CC=C4)C=CC=C3)C | C27H37N3O2SSi
product | Dimethyl-[3-(1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-propyl]-amine | CN(CCCOCC1=NC=2C3=C(SC4=C(C2N1)C=CC=C4)C=CC=C3)C | C21H23N3OS
